US09193723B2
(S,E)-tert-butyl 5-(((tert-butylsulfinyl)imino)methyl)thiophene-2-carboxylate
tert-Butyl 5-formylthiophene-2-carboxylate (2 g, 9.42 mmol) and (S)-2-methylpropane-2-sulfinamide (1.370 g, 11.31 mmol) were dissolved in dichloromethane (100 ml). The mixture was chilled in an ice bath, and then tetraethoxytitanium (8.7 ml, 41.5 mmol) was added. The mixture was allowed to warm to room temperature overnight with stirring. The mixture was poured into a large Erlenmeyer flask with 200 mL dichloromethane and was diluted with 18 mL H2O. After vigorous stirring for 30 minutes the suspension was filtered through diatomaceous earth and the filtrate was concentrated. Purification using normal phase chromatography provided the title compound.

reactant | tert-Butyl 5-formylthiophene-2-carboxylate | 9.42 mmol, 2 g | C(=O)C1=CC=C(S1)C(=O)OC(C)(C)C | C10H12O3S
reactant | (S)-2-methylpropane-2-sulfinamide | 11.31 mmol, 1.370 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | H2O | 18 mL | O | H2O
catalyst | tetraethoxytitanium | 41.5 mmol, 8.7 ml | C(C)O[Ti](OCC)(OCC)OCC
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (S,E)-tert-butyl 5-(((tert-butylsulfinyl)imino)methyl)thiophene-2-carboxylate | C(C)(C)(C)[S@](=O)\N=C\C1=CC=C(S1)C(=O)OC(C)(C)C | C14H21NO3S2
